US05246906
Synthesis Example 1 (Preparation of N-(p-toluenesulfonyl)-N'-phenylurea)
A three-necked flask equipped with a dropping funnel, a thermometer, and a reflux condenser was charged with 18.6 g of aniline and the aniline was dissolved in 200 ml of toluene. While the resultant reaction solution was stirred with a magnetic stirrer, 42.0 g of toluenesulfonylisocyanate were added dropwise from the dropping funnel to the reaction solution. During the stirring, an exothermic reaction occurred and a large amount of white solid was precipitated. The resultant reaction mixture was heated at a temperature of 90° C. for one hour, cooled, and then filtered. White crystals were obtained in an amount of 58.0 g. The crystals had a melting point of 166° C.

reactant | aniline | 18.6 g | NC1=CC=CC=C1 | C6H7N
reactant | toluenesulfonylisocyanate | 42.0 g | C=1(C(=CC=CC1)S(=O)(=O)N=C=O)C | C8H7NO3S
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(p-toluenesulfonyl)-N'-phenylurea | C1(=CC=C(C=C1)S(=O)(=O)NC(=O)NC1=CC=CC=C1)C | C14H14N2O3S
